US09315458B2
C) methyl 5-bromo-3-fluoro-2-hydroxy-4-methylbenzoate
To a solution of methyl 3-fluoro-2-hydroxy-4-methylbenzoate (6.40 g) in acetic acid (120 mL) was added bromine (1.87 mL) at room temperature, and the mixture was stirred at the same temperature for 2 hr. To the reaction mixture was added 10% aqueous sodium thiosulfate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give a mixture (7.99 g) of the title compound and the raw material (about 2:1). The obtained product was used in the next step without an additional purification.

reactant | methyl 3-fluoro-2-hydroxy-4-methylbenzoate | 6.40 g | FC=1C(=C(C(=O)OC)C=CC1C)O | C9H9FO3
reactant | bromine | 1.87 mL | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | methyl 5-bromo-3-fluoro-2-hydroxy-4-methylbenzoate | 7.99 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)F)C | C9H8BrFO3
